US09079878B2
3-(1-{4-[4-(Trifluoromethyl)phenyl]-1H-imidazol-2-yl}ethyl)oxetan-3-amine
Benzyl [3-(1-{4-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}ethyl)oxetan-3-yl]carbamate (Preparation 8, 0.95 g, 2.13 mmol) was dissolved in methanol (20 mL) and hydrogenated at room temperature and 100 psi. The reaction mixture was then filtered over Arbocel© and the resulting filtrate concentrated in vacuo. The residue was purified by silica gel column chromatography to afford the title compound as a solid (0.42 g, 63%).

reactant | Benzyl [3-(1-{4-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}ethyl)oxetan-3-yl]carbamate | 2.13 mmol, 0.95 g | FC(C1=CC=C(C=C1)C=1N=C(NC1)C(C)C1(COC1)NC(OCC1=CC=CC=C1)=O)(F)F | C23H22F3N3O3
solvent | methanol | 20 mL | CO | CH4O
product | 3-(1-{4-[4-(Trifluoromethyl)phenyl]-1H-imidazol-2-yl}ethyl)oxetan-3-amine | 0.42 g, 63% | FC(C1=CC=C(C=C1)C=1N=C(NC1)C(C)C1(COC1)N)(F)F | C15H16F3N3O
